US07470710B2
(RS)-1-[2-(5-Chloro-benzofuran-2-ylmethyl)-4-methyl-piperazin-1-yl]-1-[5(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone
The title compound (135 mg) was prepared from 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carbonyl chloride (211 mg) and 3-(5-Chloro-benzofuran-2-ylmethyl)-1-methyl-piperazine, D63 (200 mg) by a procedure similar to that described for Example 1.

reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carbonyl chloride | 211 mg | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)Cl | C11H7ClFNOS
reactant | 3-(5-Chloro-benzofuran-2-ylmethyl)-1-methyl-piperazine | ClC=1C=CC2=C(C=C(O2)CC2CN(CCN2)C)C1 | C14H17ClN2O
product | (RS)-1-[2-(5-Chloro-benzofuran-2-ylmethyl)-4-methyl-piperazin-1-yl]-1-[5(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone | 135 mg | ClC=1C=CC2=C(C=C(O2)CC2N(CCN(C2)C)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C)C1 | C25H23ClFN3O2S
